US05859051
Step A: Preparation of 2-propyl-3-(2-phenyl-2-oxoethoxy)phenol
To a solution of 2-propyl resorcinol (178.27 g; 1.171 mol) in dry DMF (1200 mL) was added cesium carbonate (104.95 g; 322.12 mmol). The mixture was stirred at room temperature and treated dropwise with a solution of 2-bromoacetophenone (58.29 G; 292.84 mmol) in dry DMF (500 mL) over 2 hours. The was stirred at ambient temperature for 64 hours. The reaction mixture was partitioned between isopropyl acetate and water. The aqueous was adjusted to pH 13 by addition of aq. 5N sodium hydroxide. The organic was dried over magnesium sulfate, filtered and evaporated to a residue. The residue was dissolved in methylene chloride (110 mL) and hexane (350 mL) and heated to reflux. The solution was cooled to -10° C. Stirring was continued for 1 hour. The title compound was recovered by filtration.

reactant | 2-propyl resorcinol | 1.171 mol, 178.27 g | C(CC)C1=C(O)C=CC=C1O | C9H12O2
reactant | cesium carbonate | 322.12 mmol, 104.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoacetophenone | 292.84 mmol | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | DMF | 1200 mL | CN(C)C=O | C3H7NO
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 2-propyl-3-(2-phenyl-2-oxoethoxy)phenol | C(CC)C1=C(C=CC=C1OCC(=O)C1=CC=CC=C1)O | C17H18O3
